* Variant: same HS NMOS buck, but LM5109 VDD = 9V boosted from battery (Vgs=8.3 after boot diode)
.include common.inc

.param Vin_val=@VIN@
.param duty=@DUTY@
.param fsw=100k
.param period={1/fsw}
.param ton={duty*period}

Vin input 0 DC {Vin_val}
Cin input 0 100u IC={Vin_val}

* Aux consumption of 78L12 + LM5109 quiescent (~4mA from solar rail)
Iaux input 0 DC 4m

* PWM logic signal
Vpwm pwm 0 PULSE(0 1 0 10n 10n {ton} {period})

* Gate rail: VDD = min(12, Vin-1.7); driver dead below UVLO 6.9V; bootstrap diode drop 0.7V
* Drive referenced to switch node (bootstrap)
Bdrv drv sw V = v(pwm) * 8.3
Rg drv g 4.7

M1 input g sw NBUCK

* Freewheel Schottky
D1 0 sw SS56

* Inductor 47u, DCR 38m
L1 sw o1 47u IC=1
RL o1 bat_t 38m

* Output cap 100u + 20m ESR
Cout bat_t co1 100u IC=4.0
Resr co1 0 20m

* NiMH 3S battery: EMF 3.9V + 0.15 ohm
Rint bat_t bx 0.15
VB bx 0 DC 3.9

* Probes
Bpin pinv 0 V = -v(input)*i(Vin)
Bpb  pbv  0 V = v(bat_t)*i(VB)
Bvgs vgsv 0 V = v(g)-v(sw)

.options reltol=2e-3 abstol=1e-9 vntol=1e-6 itl4=100 method=gear
.end
